M1 (net013 VIN1 IB1 VSS) nmos4
M3 (VOUT1 net015 IB1 VSS) nmos4
M11 (VOUT1 net013 VDD VDD) pmos4
M10 (net013 net013 VDD VDD) pmos4
R1 (net015 VSS) resistor
R0 (VOUT1 net015) resistor
C0 (VOUT1 VSS) capacitor