M5 (net016 VIN1 IB1 VSS) nmos4
M4 (VOUT1 VB1 net016 VSS) nmos4
M1 (VOUT2 VB1 net019 VSS) nmos4
M3 (net019 VIN2 IB1 VSS) nmos4
C0 (VOUT1 VSS) capacitor
C1 (VOUT2 VSS) capacitor
M9 (VOUT1 VB2 net017 VDD) pmos4
M8 (VOUT2 VB2 net018 VDD) pmos4
M6 (net017 VB3 VDD VDD) pmos4
M7 (net018 VB3 VDD VDD) pmos4